US08466168B2
6.i. rac-3-cyano-2-(7-fluoro-2-methoxy-quinolin-8-yl)-propionic acid methyl ester
To a solution of (7-fluoro-2-methoxy-quinolin-8-yl)-acetic acid methyl ester (1.0 g, 4.0 mmol; prepared as in WO 2007/081597) in THF (10 mL) cooled to −78° C. was added LiHMDS (1M, 4.43 mL, 1.2 eq.) dropwise over 15 min. The resulting orange mixture was stirred at −78° C. for 2 h. Bromoacetonitrile (1.5 eq.) was added dropwise over 20 min and stirring was continued at −78° C. for an additional 2 h. The reaction was quenched with water and extracted with EA (3×). The combined org. phases were washed with brine, dried over MgSO4, filtered and concentrated. The residue was purified by CC (Hept/EA 2:1 to 1:1) to afford the title intermediate as a colourless solid (953 mg, 82% yield). MS (ESI, m/z): 289.4 [M+H+].

reactant | (7-fluoro-2-methoxy-quinolin-8-yl)-acetic acid methyl ester | 4.0 mmol, 1.0 g | COC(CC=1C(=CC=C2C=CC(=NC12)OC)F)=O | C13H12FNO3
reactant | LiHMDS | 1M, 4.43 mL, 1.2 eq. | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | Bromoacetonitrile | 1.5 eq. | BrCC#N | C2H2BrN
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | rac-3-cyano-2-(7-fluoro-2-methoxy-quinolin-8-yl)-propionic acid methyl ester | 953 mg, 82% yield | COC(C(CC#N)C=1C(=CC=C2C=CC(=NC12)OC)F)=O | C15H13FN2O3
